US07056918B2
5-(1-Acetyl-2-m-tolyl-vinyl)-1,3-dimethyl-1,3-dihydro-benzoimidazol-2-one (1.07 g) in acetic acid (5 mL) was treated with p-toluenesulfonhydrazide (0.685 g). The reaction mixture was heated to 115° C. for 5 hours. Additional p-toluenesulfonhydrazide (0.601 g) was added and the reaction was heated for an additional 4 hours. The mixture was then allowed to cool, was poured onto saturated sodium bicarbonate and extracted into ethyl acetate. Chromatography on silica gel afforded 1,3-Dimethyl-5-(3-methyl-5-m-tolyl-1H-pyrazol-4-yl)-1,3-dihydro-benzoimidazol-2-one (0.263 g).

reactant | 5-(1-Acetyl-2-m-tolyl-vinyl)-1,3-dimethyl-1,3-dihydro-benzoimidazol-2-one | 1.07 g | C(C)(=O)C(=CC=1C=C(C=CC1)C)C1=CC2=C(N(C(N2C)=O)C)C=C1 | C20H20N2O2
reactant | p-toluenesulfonhydrazide | 0.685 g | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | p-toluenesulfonhydrazide | 0.601 g | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 1,3-Dimethyl-5-(3-methyl-5-m-tolyl-1H-pyrazol-4-yl)-1,3-dihydro-benzoimidazol-2-one | 0.263 g | CN1C(N(C2=C1C=CC(=C2)C=2C(=NNC2C=2C=C(C=CC2)C)C)C)=O | C20H20N4O
